US05530002
4.4. 1-[7-(Cyclopropylmethoxy)naphth-1-yl]piperazine
A mixture of 7.7 g (0.036 mol) of 7-(cyclopropylmethoxy)naphthalene-1-amine, 6 g (0.036 mol) of bis(2-chloroethyl)amine hydrochloride, 50 ml of butanol and approximately 50 mg of potassium iodide is heated at reflux for 10 h under a nitrogen atmosphere. 2.5 g (0.018 mol) of potassium carbonate are added and heating at reflux is continued for 10 h, and then, twice, a further 1.25 g (0.009 mol) of potassium carbonate are added and the mixture is heated at reflux for 10 h. The butanol is evaporated. The residue is taken up in 100 ml of dichloromethane and 50 ml of 10% sodium hydroxide solution. The mixture is stirred in the presence of carbon black and filtered. The organic phase is separated and dried over magnesium sulphate. The solvent is evaporated under reduced pressure and the residue is purified by chromatography on a column of silica gel, eluting with a 90:10 mixture of dichloromethane/methanol. After evaporation of the solvent, 4.2 g of an oily product are obtained which is used as it is in the following step.

reactant | 7-(cyclopropylmethoxy)naphthalene-1-amine | 0.036 mol, 7.7 g | C1(CC1)COC1=CC=C2C=CC=C(C2=C1)N | C14H15NO
reactant | bis(2-chloroethyl)amine hydrochloride | 0.036 mol, 6 g | Cl.ClCCNCCCl
reactant | potassium iodide | approximately 50 mg | [I-].[K+]
reactant | potassium carbonate | 0.018 mol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.009 mol, 1.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanol | 50 ml | C(CCC)O | C4H10O
product | 1-[7-(Cyclopropylmethoxy)naphth-1-yl]piperazine | C1(CC1)COC1=CC=C2C=CC=C(C2=C1)N1CCNCC1 | C18H22N2O
